US05668291
{2-[2-(hydroxyimino-phenyl-methyl)-phenyldisulfanyl]-phenyl}-phenyl-methanone
The [2-(2-benzoyl-phenyldisulfanyl)-phenyl]-phenyl-methanone (0.55 g, 1.2 mmol) was diluted with ethanol (5 mL) and anhydrous pyridine (5 mL). Hydroxylamine hydrochloride (1 g, 14 mmol) was added and the solution was refluxed for 90 minutes. The solution was cooled and poured into cold aqueous HCl (1N). Ethyl acetate was added, the layers were separated, and the organic portion was washed with brine, dried (MgSO4), and filtered. The filtrate was concentrated to dryness and the residue was triturated with 75% hexane/25% ethyl acetate to give the title compound (0.19 g, 32%) as a white solid, mp 191°-193° C.;

reactant | [2-(2-benzoyl-phenyldisulfanyl)-phenyl]-phenyl-methanone | 1.2 mmol, 0.55 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | C26H18O2S2
reactant | Hydroxylamine hydrochloride | 14 mmol, 1 g | Cl.NO
reactant | HCl | 1N | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | {2-[2-(hydroxyimino-phenyl-methyl)-phenyldisulfanyl]-phenyl}-phenyl-methanone | 0.19 g, 32% | ON=C(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C26H19NO2S2
